US07776857B2
Five 20 mL microwave vials were each charged with 4-aminophenol (0.700 mg, 33 mmol) and 3 equivalents of cesium carbonate in 6.0 ml of DMF. The mixture was stirred at RT for 10 minutes. Following addition of 8-chloro-3-methoxy-1,5-naphthyridine (1 g, 26 mmol), the reaction vessels were capped and irradiated at 150° C. for 15 min in the microwave, at which time the reaction was determined complete by LCMS. The mixture was allowed to cool to ambient temperature and material from the five vessels was combined. A deep brown solid crashed out with addition of water. Filtered solids, washed with water and dried overnight in the vacuum oven to afford 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine as a brown solid.

reactant | 4-aminophenol | 33 mmol, 0.700 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | cesium carbonate | 3 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 26 mmol, 1 g | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
reactant | water | O | H2O
solvent | DMF | 6.0 ml | CN(C)C=O | C3H7NO
product | 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)N | C15H13N3O2
